US09403839B2
To a solution of [cis-8-hydroxy-10-phenyl-11-oxa-3-azaspiro[5.5]undecan-3-yl]-(4-isopropoxy-3-methoxy-phenyl)methanone (139 mg, 0.3 mmol) in DMF (4 mL) was added sodium hydride (34 mg, 1.5 mmol). The mixture was stirred at room temperature for 30 minutes. Iodomethane (187 μL, 3.00 mmol) was added. The mixture was stirred at room temperature overnight, then repartitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with water (3×), brine, dried over MgSO4, filtered and concentrated to dryness. The crude material was purified by column chromatography (50-60% ethyl acetate-Hex) to provide (4-isopropoxy-3-methoxy-phenyl)-[cis-8-methoxy-10-phenyl-11-oxa-3-azaspiro[5.5]undecan-3-yl]methanone (102 mg). 1H NMR (400 MHz, CDCl3) δ 7.48-7.33 (m, 4H), 7.33-7.28 (m, 1H), 7.01-6.90 (m, 2H), 6.86 (d, J=8.2 Hz, 1H), 4.66-4.46 (m, 2H), 4.12-3.90 (m, 2H), 3.86 (s, 3H), 3.76-3.61 (m, 1H), 3.48 (s, 1H), 3.37 (d, J=4.5 Hz, 3H), 3.21 (t, J=11.8 Hz, 1H), 2.28 (dd, J=39.8, 13.2 Hz, 2H), 2.00 (dd, J=12.6, 2.7 Hz, 1H), 1.85-1.62 (m, 3H), 1.59-1.44 (m, 1H), 1.42-1.33 (m, 7H). ESI-MS m/z calc. 453.25, found 454.5 (M+1)+; Retention time: 1.65 minutes (3 minute run).

reactant | [cis-8-hydroxy-10-phenyl-11-oxa-3-azaspiro[5.5]undecan-3-yl]-(4-isopropoxy-3-methoxy-phenyl)methanone | 0.3 mmol, 139 mg | O[C@@H]1CC2(CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)OC)O[C@@H](C1)C1=CC=CC=C1 | C26H33NO5
reactant | sodium hydride | 1.5 mmol, 34 mg | [H-].[Na+]
reactant | Iodomethane | 3.00 mmol, 187 μL | IC | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-isopropoxy-3-methoxy-phenyl)-[cis-8-methoxy-10-phenyl-11-oxa-3-azaspiro[5.5]undecan-3-yl]methanone | 102 mg | C(C)(C)OC1=C(C=C(C=C1)C(=O)N1CCC2(CC1)C[C@H](C[C@H](O2)C2=CC=CC=C2)OC)OC | C27H35NO5
